US06133303
6-[2-(1H-Imidazole-4-yl)-ethoxy]-2-thiophen-2-ylmethylene-3,4-dihydro-2H-naphthalen-1-one
According to the method of Example 32, Step 2, 4-[2-(5-oxo-5,6,7,8-tetrahydro-naphthalen-2-yloxy)-ethyl]-imidazole-1-carboxylic acid tert-butyl ester (0.356 g, 1.0 mmol) was reacted with thiophene-2-carboxaldehyde (0.174 g, 1.55 mmol) in 5 mL of 4% KOH in EtOH for 24 hours to afford, after chromatography (silica gel, 60 g; 8% MeOH in DCM), 0.154 g (40%) of the title compound as a red glassy solid, mp 60-63° C.: CI-MS m/e 351 (M+ +1).

reactant | 4-[2-(5-oxo-5,6,7,8-tetrahydro-naphthalen-2-yloxy)-ethyl]-imidazole-1-carboxylic acid tert-butyl ester | 1.0 mmol, 0.356 g | C(C)(C)(C)OC(=O)N1C=NC(=C1)CCOC1=CC=2CCCC(C2C=C1)=O | C20H24N2O4
reactant | thiophene-2-carboxaldehyde | 1.55 mmol, 0.174 g | S1C(=CC=C1)C=O | C5H4OS
reactant | MeOH | CO | CH4O
solvent | KOH | 5 mL | [OH-].[K+]
solvent | EtOH | CCO | C2H6O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 6-[2-(1H-Imidazole-4-yl)-ethoxy]-2-thiophen-2-ylmethylene-3,4-dihydro-2H-naphthalen-1-one | 0.154 g, 40% | N1C=NC(=C1)CCOC=1C=C2CCC(C(C2=CC1)=O)=CC=1SC=CC1 | C20H18N2O2S
